US07148226B2
2-(4-{2-[2-Cyclopentyl-5-(6-ethyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethyl)-4-hydroxy-6-oxo-3,6-dihydro-2H-pyran-2-yl]-ethyl}-2,6-difluoro-phenyl)-2-methyl-propionitrile (3428-187 PF-00389530)
A solution of 2-{4-[2-(2-Cyclopentyl-4-hydroxy-6-oxo-3,6-dihydro-2H-pyran-2-yl)-ethyl]-2,6-difluoro-phenyl}-2-methyl-propionitrile (272 mg, 0.7 mmol) in anhydrous MeOH (1.5 mL) was treated with 6-ethyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde (324 mg, 2.0 mmol), followed by borane-dimethylamine complex (191.7 mg, 1.05 mmol) at room temperature. The reaction was stirred for 12 hours. The precipitate was removed by filtration, and the filtrate was concentrated to a crude oil. The crude oil was purified by flash chromatography (25 g SiO2, 1:3:1:0 (93.5% ethyl acetate, 6% methanol, 0.5% acetic acid): (81.5% hexanes, 12% ethyl acetate, 6% methanol, 0.5% acetic acid)) to give product as an oil. It was further purified by preparatory HPLC. Yield: 19.0 mg, 8.0%. 1H NMR (CDCl3) δ: 1.37 (t, J=3.75 Hz, 3H)), 1.48–1.75 (m, 8H), 1.84 (s, 6H), 1.91–2.02 (m, 2H), 2.32–2.49 (m, 3H), 2.61–2.70 (m, 2H), 2.79–2.86 (m, 2H), 4.10 (s, 2H), 6.69 (d, J=10.86 Hz, 2H), 8.62 (s, 1H), 8.73 (s, 1H). MS (ESI): 548 (M−H).

reactant | 2-{4-[2-(2-Cyclopentyl-4-hydroxy-6-oxo-3,6-dihydro-2H-pyran-2-yl)-ethyl]-2,6-difluoro-phenyl}-2-methyl-propionitrile | 0.7 mmol, 272 mg | C1(CCCC1)C1(OC(C=C(C1)O)=O)CCC1=CC(=C(C(=C1)F)C(C#N)(C)C)F | C22H25F2NO3
reactant | 6-ethyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde | 2.0 mmol, 324 mg | C(C)C=1C=NC=2N(C1)N=C(N2)C=O | C8H8N4O
solvent | MeOH | 1.5 mL | CO | CH4O
product | 2-(4-{2-[2-Cyclopentyl-5-(6-ethyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethyl)-4-hydroxy-6-oxo-3,6-dihydro-2H-pyran-2-yl]-ethyl}-2,6-difluoro-phenyl)-2-methyl-propionitrile | C1(CCCC1)C1(OC(C(=C(C1)O)CC1=NN2C(N=CC(=C2)CC)=N1)=O)CCC1=CC(=C(C(=C1)F)C(C#N)(C)C)F | C30H33F2N5O3
